US05965619
To a solution of methyl 5-methoxy-2-methyl-3-indenylacetate 8.7 g (0.037 mol) and 2,3,4-trimethoxybenzaldehyde, 7.99 g (1.1 equivalent) is added 16+ml (2.0+equivalents) of 25% methanolic sodium methoxide. The mixture is stirred at reflux under nitrogen for 2 hours. An equal volume of water is added dropwise and refluxing continues for 30 min. The solution is cooled, diluted with water and extracted with ether (3×). Residual ether is blown off with nitrogen, and then the aqueous solution is acidified with 50% glacial acetic acid. The precipitated product is collected and washed thoroughly with water. The crude product is crystallized to give 5-methoxy-2-methyl-1-(2,3,4-trimethoxybenzylidene)-3-indenyl acetic acid.

reactant | methyl 5-methoxy-2-methyl-3-indenylacetate | 0.037 mol, 8.7 g | COC=1C=C2C(=C(CC2=CC1)C)CC(=O)OC | C14H16O3
reactant | 2,3,4-trimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | sodium methoxide | C[O-].[Na+]
solvent | water | O | H2O
product | 5-methoxy-2-methyl-1-(2,3,4-trimethoxybenzylidene)-3-indenyl acetic acid | COC=1C=C2C(=C(C(C2=CC1)=CC1=C(C(=C(C=C1)OC)OC)OC)C)CC(=O)O | C23H24O6
